US07713994B2
(4Z)-6-Iodo-4-({[4-(4-isopropylpiperazin-1-yl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione
(4Z)-6-iodo-4-{[(4-piperazin-1-ylphenyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione (23.7 mg, 0.05 mmol) is dissolved in N-methylpyrrolidinone (0.5 mL) and methylene chloride (0.15 mL), followed by addition of sodium triacetoxyborohydride (122 mg, 0.575 mmol), acetone (0.095 mL, 1.29 mmol) and acetic acid (0.075 mL, 1.31 mmol). After stirring at room temperature for 1 h, methylene chloride and saturated sodium bicarbonate solution were added. The organic layer is separated and dried to give 18.8 mg (73%) of the title compound as a yellow solid. MS (ESI) m/z 517.0 (M+H)+1

reactant | (4Z)-6-iodo-4-{[(4-piperazin-1-ylphenyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 0.05 mmol, 23.7 mg | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N1CCNCC1 | C20H19IN4O2
reactant | sodium triacetoxyborohydride | 0.575 mmol, 122 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetone | 1.29 mmol, 0.095 mL | CC(=O)C | C3H6O
reactant | acetic acid | 1.31 mmol, 0.075 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N-methylpyrrolidinone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
solvent | methylene chloride | 0.15 mL | C(Cl)Cl | CH2Cl2
product | (4Z)-6-Iodo-4-({[4-(4-isopropylpiperazin-1-yl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 18.8 mg, 73% | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC1=CC=C(C=C1)N1CCN(CC1)C(C)C | C23H25IN4O2
